US07781435B2
A mixture of the 2-(4-Nitro-imidazol-1-yl)-cyclobutanecarboxylic acid methyl ester (2.640 g, 0.01105 mol), borane-dimethyl sulfide complex (1M in tetrahydrofuran) (33.2 mL, 0.0332 mol) and tetrahydrofuran (10 mL) was heated at reflux for 17 hours. The reaction was quenched by water. The volatile solvent was evaporated under reduced pressure. The residue was diluted with water and extracted with ethyl acetate three times. The combined extracts were washed with brine and dried over sodium sulfate. The solvent was then evaporated under reduced pressure to yield [2-(4-Nitro-imidazol-1-yl)-cyclobutyl]-methanol (0.825 g, 0.00419 mol) as a white solid. M+1=198.1.

reactant | 2-(4-Nitro-imidazol-1-yl)-cyclobutanecarboxylic acid methyl ester | 0.01105 mol, 2.640 g | COC(=O)C1C(CC1)N1C=NC(=C1)[N+](=O)[O-] | C9H11N3O4
reactant | borane-dimethyl sulfide | 0.0332 mol, 1M, 33.2 mL | CSC.B
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [2-(4-Nitro-imidazol-1-yl)-cyclobutyl]-methanol | 0.00419 mol, 0.825 g | [N+](=O)([O-])C=1N=CN(C1)C1C(CC1)CO | C8H11N3O3
